US04931463
(M)(h) 430 mg of benzyl (2S,3S,5R)-2-hexyl-3-hydroxy-5-[(tetrahydro-2H-pyran-2-yl)oxy]hexadecanoate in 10 ml of THF were treated with Pd/C 10% and hydrogenated for 3 hours. The catalyst was filtered off and, after evaporation of the filtrate, the product was chromatographed on silica gel. There was obtained (2S,3S,5R)-2-hexyl-3-hydroxy-5-[(tetrahydro-2H-pyran-2-yl)oxy]hexadecanoic acid.

reactant | benzyl (2S,3S,5R)-2-hexyl-3-hydroxy-5-[(tetrahydro-2H-pyran-2-yl)oxy]hexadecanoate | 430 mg | C(CCCCC)[C@H](C(=O)OCC1=CC=CC=C1)[C@H](C[C@@H](CCCCCCCCCCC)OC1OCCCC1)O | C34H58O5
solvent | THF | 10 ml | C1CCOC1 | C4H8O
catalyst | Pd/C | [Pd] | Pd
product | (2S,3S,5R)-2-hexyl-3-hydroxy-5-[(tetrahydro-2H-pyran-2-yl)oxy]hexadecanoic acid | C(CCCCC)[C@H](C(=O)O)[C@H](C[C@@H](CCCCCCCCCCC)OC1OCCCC1)O | C27H52O5
